US20010014691A1
3-(4-Piperidinyloxy)pyridine Dihydrochloride
Concentrated HCl (2 mL) was added to 3-(4-piperidinyloxy)pyridine (260 mg, 1.459 mmol), and the resulting solution was concentrated by rotary evaporation. Ethanol was added to the residue and removed by rotary evaporation to dry the product. The procedure was repeated several times until a solid was obtained. The resulting material was recrystallized from 2-propanol. The solids were filtered and dried under vacuum to afford 233 mg (63.7%) of an off-white solid, mp 152-155° C. The compound exhibits a Ki of 592 nM; the effect at muscle sites is 16 percent; and the effect at ganglia sites is 9 percent.

reactant | HCl | 2 mL | Cl | ClH
reactant | 3-(4-piperidinyloxy)pyridine | 1.459 mmol, 260 mg | N1CCC(CC1)OC=1C=NC=CC1 | C10H14N2O
product | 3-(4-Piperidinyloxy)pyridine Dihydrochloride | 233 mg, 63.7% | Cl.Cl.N1CCC(CC1)OC=1C=NC=CC1 | InChI=1S/C10H14N2O.2ClH/c1-2-10(8-12-5-1)13-9-3-6-11-7-4-9;;/h1-2,5,8-9,11H,3-4,6-7H2;2*1H
